### PR TITLE
[Merged by Bors] - feat: the L matrix in the LDL decomposition is lower triangular

### PR DESCRIPTION
**Pull request by luigi-massacci**
The title. This closes an existing TODO in the file. I also updated one of the lemmas to use the predicate `IsLowerTriangular`instead of spelling out the definition.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Matrix/LDL.lean [hunk 1]
```diff
@@ -86,7 +83,9 @@ noncomputable def LDL.diagEntries : n → 𝕜 := fun i =>
 noncomputable def LDL.diag : Matrix n n 𝕜 :=
   Matrix.diagonal (LDL.diagEntries hS)
 
-theorem LDL.lowerInv_triangular {i j : n} (hij : i < j) : LDL.lowerInv hS i j = 0 := by
+theorem LDL.lowerInv_isLowerTriangular : (LDL.lowerInv hS).IsLowerTriangular := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/LDL.lean]:
```suggestion
theorem LDL.isLowerTriangular_lowerInv : (LDL.lowerInv hS).IsLowerTriangular := by
```

File: Mathlib/Analysis/Matrix/LDL.lean [hunk 2]
```diff
@@ -110,6 +109,9 @@ theorem LDL.diag_eq_lowerInv_conj : LDL.diag hS = LDL.lowerInv hS * S * (LDL.low
 noncomputable def LDL.lower :=
   (LDL.lowerInv hS)⁻¹
 
+theorem LDL.lower_isLowerTriangular : (LDL.lower hS).IsLowerTriangular :=
+  blockTriangular_inv_of_blockTriangular (lowerInv_isLowerTriangular hS)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/LDL.lean]:
```suggestion
theorem LDL.isLowerTriangular_lower : (LDL.lower hS).IsLowerTriangular :=
  blockTriangular_inv_of_blockTriangular (isLowerTriangular_lowerInv hS)
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/Matrix/LDL.lean [hunk 3]
```diff
@@ -22,11 +23,7 @@ decomposed as `S = LDLᴴ` where `L` is a lower-triangular matrix and `D` is a d
 ## Main result
 
 * `LDL.lower_conj_diag` states that any positive definite matrix can be decomposed as `LDLᴴ`.
-
-## TODO
-
-* Prove that `LDL.lower` is lower triangular from `LDL.lowerInv_triangular`.
-
+* `LDL.lower_isLowerTriangular` states that `L` is lower triangular.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/LDL.lean]:
```suggestion
* `LDL.isLowerTriangular_lower` states that `L` is lower triangular.
```
